US07846959B2
Crude 2-{[1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-indol-5-yl]carbonyl}benzoic acid (0.32 mmol) was taken up in N,N-dimethylformamide (1.0 mL), and treated with 4-methylmorpholine (0.14 mL, 1.3 mmol), HOAt (0.065 g, 0.48 mmol), HATU (0.16 g, 0.42 mmol) and benzylamine (0.070 mL, 0.64 mmol) and heated for 12 h at 60° C. The solution was diluted with saturated aqueous sodium bicarbonate solution and ethyl acetate and the layers were separated. The aqueous layer was extracted (2×100 mL ethyl acetate) and the combined organic layers were dried (sodium sulfate), filtered and concentrated in vacuo. Column chromatography (silica gel, 3:1 hexanes/ethyl acetate) gave 0.089 g (58%) of 3-hydroxy-2-(phenylmethyl)-3-[1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-indol-5-yl]-2,3-dihydro-1H-isoindol-1-one. 1H NMR (400 MHz, d6-CDCl3): 8.10 (d, 1H), 7.97 (m, 2H), 7.69 (m, 3H), 7.56 (m, 5H), 7.42 (m, 4H), 7.34 (m, 1H), 5.49 (m, 2H), 3.51 (m, 2H), 0.95 (m, 2H), 0.00 (s, 9H).

reactant | 2-{[1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-indol-5-yl]carbonyl}benzoic acid | 0.32 mmol | C[Si](CCOCN1C=CC2=CC(=CC=C12)C(=O)C1=C(C(=O)O)C=CC=C1)(C)C | C22H25NO4Si
reactant | 4-methylmorpholine | 1.3 mmol, 0.14 mL | CN1CCOCC1 | C5H11NO
reactant | HOAt | 0.48 mmol, 0.065 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | HATU | 0.42 mmol, 0.16 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | benzylamine | 0.64 mmol, 0.070 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-hydroxy-2-(phenylmethyl)-3-[1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-indol-5-yl]-2,3-dihydro-1H-isoindol-1-one | 0.089 g, 58% | OC1(N(C(C2=CC=CC=C12)=O)CC1=CC=CC=C1)C=1C=C2C=CN(C2=CC1)COCC[Si](C)(C)C | C29H32N2O3Si
